US05824690
Synthesis of 4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide
Prepare by the method of Preparation 16 using 1-benzyl-(4-(pyridin-3-yl)-piperidine-4-carboxylic acid and 4-methylpiperazine to give, after chromatography on silica gel eluting sequentially with 3% methanol/dichloromethane containing 0.5% concentrated aqueous ammonia, 6% methanol/dichloromethane containing 0.5% concentrated aqueous ammonia, 9% methanol/dichloromethane containing 0.5% concentrated aqueous ammonia, and then 12% methanol/dichloromethane containing 0.5% concentrated aqueous ammonia, the title compound.

reactant | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid | N1=CC(=CC=C1)C1(CCNCC1)C(=O)O | C11H14N2O2
reactant | 4-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | methanol dichloromethane | CO.ClCCl
product | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.N1=CC(=CC=C1)C1(CCNCC1)C(=O)O | InChI=1S/C11H14N2O2.C6H13N3O/c14-10(15)11(3-6-12-7-4-11)9-2-1-5-13-8-9;1-8-2-4-9(5-3-8)6(7)10/h1-2,5,8,12H,3-4,6-7H2,(H,14,15);2-5H2,1H3,(H2,7,10)
